US06939887B2
Synthesis of 3-[2-(diethylamino)ethyl]-1-(2-fluorobenzyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carboxamide trifluoroacetate
A solution of 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile (10.3 mg), 2-fluorobenzyl chloride (0.05 ml) and potassium carbonate (23.8 mg) in N,N-dimethylformamide (1.5 ml) was stirred with heating at 80° C. for 1.5 hours. The reaction mixture was concentrated in vacuo. To the resultant residue was added t-butanol (1.5 ml), and the mixture was stirred with heating at 60° C. To the solution was added powdered potassium hydroxide crashed in mortar (46.7 mg), and the mixture was stirred with heating at 60° C. for 1 hour. To the reaction mixture was added 1N hydrochloric acid, and the mixture was concentrated in vacuo. The resultant residue was purified by HPLC using condition 2 to give the title compound (9.1 mg, 51%).

reactant | 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 10.3 mg | C(C)N(CCN1C(NC2=C1C=C(C=C2C(F)(F)F)C#N)=O)CC | C15H17F3N4O
reactant | 2-fluorobenzyl chloride | 0.05 ml | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | potassium carbonate | 23.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 3-[2-(diethylamino)ethyl]-1-(2-fluorobenzyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carboxamide trifluoroacetate | 9.1 mg, 51% | FC(C(=O)O)(F)F.C(C)N(CCN1C(N(C2=C1C=C(C=C2C(F)(F)F)C(=O)N)CC2=C(C=CC=C2)F)=O)CC | InChI=1S/C22H24F4N4O2.C2HF3O2/c1-3-28(4-2)9-10-29-18-12-15(20(27)31)11-16(22(24,25)26)19(18)30(21(29)32)13-14-7-5-6-8-17(14)23;3-2(4,5)1(6)7/h5-8,11-12H,3-4,9-10,13H2,1-2H3,(H2,27,31);(H,6,7)
